US07767674B2
1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-fluoro-5-[1-(2,2,2-trichloro-acetyl)-piperidin-4-yloxy]-phenyl}-urea
To an ice-water cooled solution of 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-fluoro-5-(piperidin-4-yloxy)-phenyl}-urea (390.6 mg, 1.0 mmol) and triethylamine (280 μL, mmol) in dichloromethane (5 mL) is added trichloroacetyl chloride (115 μL, 1.0 mmol). The reaction mixture is allowed to warm up to 22° C. and stirred for 1 hour. After removal of solvent, the residue is purified on a silica gel chromatography with hexanes and ethyl acetate to provide a white solid (520.0 mg, 97% yield, ES+(m/z) 535.9 [M+H]).

reactant | 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-fluoro-5-(piperidin-4-yloxy)-phenyl}-urea | 1.0 mmol, 390.6 mg | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC(=CC(=C1)OC1CCNCC1)F | C20H28FN5O2
reactant | triethylamine | 280 μL | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 1.0 mmol, 115 μL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{3-fluoro-5-[1-(2,2,2-trichloro-acetyl)-piperidin-4-yloxy]-phenyl}-urea | 97% yield | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC(=CC(=C1)OC1CCN(CC1)C(C(Cl)(Cl)Cl)=O)F | C22H27Cl3FN5O3
